Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
This patient is a ___ year old male who complains of s/p Fall, 
Transfer. This is a ___ male with history of 
hypertension, GERD, asthma who presents as a transfer from the 
___ emergency department for rib fractures. The patient 
fell 5 steps off a ladder onto his right side. This occurred 
earlier today. He was attempting to get a beam off of a roof 
when the beam came down and pulled him off a ladder. He 
developed pain to his right chest and right upper back. He was 
able to ambulate. He did not strike his head. His pain got worse 
and he developed shortness of breath so he presented to the 
___ emergency department. He underwent CT scans of his 
head, C-spine which were unremarkable. His c-collar was cleared. 
Chest x-ray and chest CT demonstrate a small right-sided 
pneumothorax and fractures of right ribs 1 through 3. He was 
placed on a
nonrebreather and transferred here for trauma evaluation. He is 
not anticoagulated. Denies any hip pain, numbness, weakness, 
abdominal pain.

 
Past Medical History:
PMH: emphysema, HTN, HLD, GERD

PSH: cataracts, open R inguinal hernia repair
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Admission Physical Exam:
Temp: 99.7 HR: 92 BP: 149/84 Resp: 20 O(2)Sat: 100 Normal
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: No cyanosis, clubbing or edema,
Skin: No rash, Warm and dry
Neuro: Speech fluent

Discharge Physical Exam:
VS: 98.2 PO 147 / 79 R Lying 74 18 92 Ra 
GEN: Awake, alert, pleasant and interactive.
CV: RRR
PULML: Clear to auscultation bilaterally.
ABD: Soft, non-distended, non-tender. Active bowel sounds. 
tender to palpation at sternum and left flank. 
EXT: Warm and dry. no edema.
NEURO: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 
 
Pertinent Results:
___ 06:07AM BLOOD WBC-10.9* RBC-4.79 Hgb-14.7 Hct-45.1 
MCV-94 MCH-30.7 MCHC-32.6 RDW-12.4 RDWSD-43.2 Plt ___
___ 06:19PM BLOOD WBC-17.6* RBC-5.01 Hgb-15.4 Hct-46.6 
MCV-93 MCH-30.7 MCHC-33.0 RDW-12.2 RDWSD-41.7 Plt ___
___ 06:07AM BLOOD Glucose-106* UreaN-18 Creat-0.7 Na-139 
K-3.7 Cl-99 HCO3-28 AnGap-12
___ 06:19PM BLOOD Glucose-124* UreaN-15 Creat-0.8 Na-140 
K-4.2 Cl-98 HCO3-24 AnGap-18
___ 06:07AM BLOOD Calcium-8.7 Phos-2.5* Mg-2.2

Radiology: 
___ CXR: No significant change of small right apical
pneumothorax. Slightly decreased subcutaneous air. 
Asymmetric opacification at the left base which, in the
appropriate clinical setting, could represent
aspiration/pneumonia 

___ CT Torso: 1. Small right pneumothorax associated with
fractures of the anterolateral right ___, and 3rd ribs.  No
signs for tension. 2. Superior sternal fracture with small
retrosternal hematoma. 3. Extensive subcutaneous air along the
right and superolateral chest wall with small pneumomediastinum 

___ CXR:  Small right apical pneumothorax.  No evidence for
tension. 2. Small volume pneumomediastinum with large amount of
subcutaneous emphysema in the right lateral chest wall and right
neck. 3. Possible right second rib fracture.  Correlation with
previous cross-sectional imaging recommended. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M who presented to the emergency from 
outside hospital on ___ after a fall from 5 steps ladder 
with Right rib fractures ___, right pneumothorax, sternal bone 
fracture, and subcutaneous emphysema. He was alert, oriented, 
and hemodynamic stable in the emergency department. He was 
admitted to he trauma floor for continuous telemetry, pain 
control, and hemodynamic monitoring. Tertiary survey was 
completed with no new findings.

Pain was controlled on oral oxycodone and Acetaminophen. Heart 
rate and rhythm were monitored on continuous telemetry and 
remained stable with no acute events. He required supplemental 
oxygenation that was wean as tolerated to room air on HD2. He 
had serial chest xrays that showed resolution of pneumothorax. 
He was able to tolerate a regular diet without difficulty. 
Intake and out put were monitored. 
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze 
2. amLODIPine 10 mg PO DAILY 
3. Breo Ellipta (fluticasone furoate-vilanterol) 200-25 mcg/dose 
inhalation BID 
4. Hydrochlorothiazide 12.5 mg PO EVERY OTHER DAY 
5. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  lidocaine 4 % topical Daily 
12 hours on; 12 hours off. Available over the counter.   
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  Senna 8.6 mg PO BID  
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
7.  amLODIPine 10 mg PO DAILY  
8.  Breo Ellipta (fluticasone furoate-vilanterol) 200-25 
mcg/dose inhalation BID  
9.  Hydrochlorothiazide 12.5 mg PO EVERY OTHER DAY  
10.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small right penumothorax
right rib fractures ___ 
sternal fracture with retrosternal hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a fall sustaining right 
sided rib fractures, a small amount of air in your right lung 
space (pneumothorax), and a fracture in the bone in the center 
of your chest (sternum). Your rib and sternal bone fractures 
will heal on their own over time. You had a repeat chest x-ray 
which was stable. You have a chest x-ray scheduled on the day of 
your Acute Care Surgery/Trauma follow-up appointment. Please 
have the x-ray done approximately one (1) hour prior to your 
appointment. You will need to go to the Radiology Department in 
the ___ Building to have your xray taken. 

You were seen by the occupational and physical therapist who 
cleared you for discharge home. Your pain is better controlled, 
you are tolerating a regular diet, and ready for discharge home 
to continue your recovery. 

Please note the following discharge instructions:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___